US06794378B2
4-amino-1-benzylpiperidine (100 mg, 0.526 mmol) was dissolved into dichloromethane (10 ml) and then added with triethylamine (150 mg, 1.5 mmol) and 2,2-dimethylcyclopropanecarbonylchloride (159 mg, 1.2 mmol), which was further stirred at the room temperature for 14 hours. After the reaction was completed, the resultant was extracted with ethyl acetate and then washed, dried and concentrated according to the conventional manner and purified by using silica gel column chromatography (ethyl acetate, hexane), thus obtained a white crystal of 4-(2,2-dimethylcyclopropanecarbonylamino)-1-benzylpiperidine. The white crystal was dissolved into an ethanol (10 ml)-ethyl acetate (1 ml) mixed solvent, wherein 5% palladium carbon (150 mg) and formic acid (160 mg) were dissolved into the ethanol (10 ml) and applied thereto with dropping, which was stirred at the room temperature over night. After the palladium was filtered, the solvent was distilled out and aqueous solution of 2M sodium hydroxide was added therein to make pH>13, the solution was extracted with dichloromethane and further washed with a saturated saline solution, dried and vacuum concentrated, thus obtained 4-(2,2-dimethylcyclopropanecarbonylamino)piperidine (23:R =2,2-dimethylcyclopropane) (11.2 mg, 11%).

reactant | 4-amino-1-benzylpiperidine | 0.526 mmol, 100 mg | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 1.5 mmol, 150 mg | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylcyclopropanecarbonylchloride | 1.2 mmol, 159 mg | CC1(C(C1)C(=O)Cl)C | C6H9ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(2,2-dimethylcyclopropanecarbonylamino)-1-benzylpiperidine | CC1(C(C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1)C | C18H26N2O
